US04304784
A mixture of 8.0 g of 4',5'-dihydrospiro[benzo[b]-thiophene-2(3H),3'(2'H)-furan]-3,2'-dione, 2.3 g of sodium chloride and 20 ml of dimethylsulfoxide is stirred in nitrogen streams at 155°-160° C. for 3.5 hours. The reaction mixture is poured in ice-water, the resultant precipitate recovered by filtration and rinsed, and the residue recrystallized from methanol. By the above procedure there is obtained 5.2 g of 3-oxo-2,3-dihydro[1]benzothiophene-2-spirocyclopropane as colorless platelets melting at 70° C.

reactant | 4',5'-dihydrospiro[benzo[b]-thiophene-2(3H),3'(2'H)-furan]-3,2'-dione | 8.0 g | O1C(C2(CC1)C(C1=C(S2)C=CC=C1)=O)=O | C11H8O3S
reactant | sodium chloride | 2.3 g | [Cl-].[Na+]
solvent | dimethylsulfoxide | 20 ml | CS(=O)C | C2H6OS
product | 3-oxo-2,3-dihydro[1]benzothiophene-2-spirocyclopropane | 5.2 g | O=C1C2=C(SC13CC3)C=CC=C2 | C10H8OS
